US04003750
2-Ethoxycarbonylmethyl-1-phenylbenzimidazole
N-phenyl-o-phenylenediamine (55.27g; 0.3 mole) and carboethoxyacetimidate hydrochloride [Ber., 28, 478 (1895)](58.70g; 0.3 mole) are refluxed in ethanol (200ml) for 4 hours. The separated ammonium chloride is filtered from the hot solution. The filtrate is evaporated to a syrup which is taken up in chloroform and washed twice with water. After drying (MgSO4), the chloroform is evaporated, ligroin is added, and crystallization slowly occurs. The solid is filtered and recrystallized from ligroine to give 50.3g (59.8%); m.p. 87°-89°; Lit. m.p. 89°-91° [J. Hetero. Chem., 3(3), 280 (1966)].

reactant | N-phenyl-o-phenylenediamine | 0.3 mole, 55.27g | C1(=CC=CC=C1)NC1=C(C=CC=C1)N | C12H12N2
reactant | carboethoxyacetimidate hydrochloride | 0.3 mole, 58.70g | Cl.C(=O)(OCC)CC(O)=N
solvent | ethanol | 200ml | C(C)O | C2H6O
product | 2-Ethoxycarbonylmethyl-1-phenylbenzimidazole | C(C)OC(=O)CC1=NC2=C(N1C1=CC=CC=C1)C=CC=C2 | C17H16N2O2
